US05190953
N-(1-Azabicyclo[3.3.1]non-5-ylmethyl)-1-methyl-1H-indole-3-carboxamide
A solution of 1-methyl-1-H-indole-3-carboxylic acid (1.53 g, 8.7 mmol) in anhydrous tetrahydrofuran (8 mL) under nitrogen was treated with 1.49 g (9.2 mmol) of 1,1'-carbonyldiimidazole (CDI) and stirred for 10 minutes. At this point a thick suspension formed, and anhydrous N,N-dimethylformamide (8 mL) was added. After an additional 45 minutes the solution was degassed under a stream of nitrogen over 10 minutes, then treated with a solution of 1-azabicyclo[3.3.1]nonane-5-methanamine (1.47 g, 9.5 mmol). After 18 hours at room temperature and six hours at 55°-60° C., no acid-CDI adduct was detected by TLC (5% methanol/methylene chloride on alumina), and the mixture was concentrated in vacuo. The residue was partitioned between 3N sodium hydroxide (50 mL) and toluene (100 mL) containing a little 2-propanol. The organic layer as separated and the aqueous solution was extracted with toluene (50 mL) containing some 2 -propanol. The combined organic solution was dried (Na2SO4), concentrated in vacuo, and the residue filtered through alumina (eluted with 20% methanol/tetrahydrofuran). The filtrate was concentrated in vacuo and the residue triturated from ether/petroleum ethers (30°-60°) to give a solid, which was recrystallized from tetrahydrofuran/hexane to afford 2.06 g (76%) of colorless crystals; mp 145°-147° C.

reactant | 1-methyl-1-H-indole-3-carboxylic acid | 8.7 mmol, 1.53 g | CN1C=C(C2=CC=CC=C12)C(=O)O | C10H9NO2
reactant | 1,1'-carbonyldiimidazole | 9.2 mmol, 1.49 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | N,N-dimethylformamide | 8 mL | CN(C=O)C | C3H7NO
reactant | 1-azabicyclo[3.3.1]nonane-5-methanamine | 9.5 mmol, 1.47 g | N12CCCC(CCC1)(C2)CN | C9H18N2
solvent | tetrahydrofuran | 8 mL | O1CCCC1 | C4H8O
solvent | methanol methylene chloride | CO.C(Cl)Cl
product | N-(1-Azabicyclo[3.3.1]non-5-ylmethyl)-1-methyl-1H-indole-3-carboxamide | 2.06 g, 76% | N12CCCC(CCC1)(C2)CNC(=O)C2=CN(C1=CC=CC=C21)C | C19H25N3O
